US06110929
A suspension of ethyl 7-fluoro-4-hydroxy-3-quinolinecarboxylate (65 g, 0.28 mol) in 10% sodium hydroxide (250 mL) was heated at reflux for 3 hours during which time a solution was obtained. The reaction mixture was allowed to cool to ambient temperature and then it was filtered through filter paper under vacuum. The filtrate was acidified with concentrated hydrochloric acid. The resulting precipitate was collected, washed with water and then dried to provide 53.5 g of 7-fluoro-4-hydroxy-3-quinolinecarboxylic acid as a white solid.

reactant | ethyl 7-fluoro-4-hydroxy-3-quinolinecarboxylate | 0.28 mol, 65 g | FC1=CC=C2C(=C(C=NC2=C1)C(=O)OCC)O | C12H10FNO3
solvent | sodium hydroxide | 250 mL | [OH-].[Na+]
product | 7-fluoro-4-hydroxy-3-quinolinecarboxylic acid | 53.5 g | FC1=CC=C2C(=C(C=NC2=C1)C(=O)O)O | C10H6FNO3
